US07045366B2
Synthesis of 4-(glycidyloxy)benzophenone
As illustrated in FIG. 6, 100 mL of dried acetone were added to a dry, 250-mL round bottom flask, equipped with a magnetic stirrer, along with 15.05 grams of 4-hydroxybenzophenone, 32.1 grams of epichlorohydrin, and 6.2 grams of potassium carbonate. The solution was heated to reflux for 6 hours and then cooled to room temperature. The precipitated potassium chloride was filtered off, and the solution was evaporated to remove excess epichlorohydrin. The crude product was recrystallized from methanol. 1H NMR data confirmed the formation of the desired product.

reactant | 4-hydroxybenzophenone | 15.05 grams | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | epichlorohydrin | 32.1 grams | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 6.2 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-(glycidyloxy)benzophenone | C(C1CO1)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H14O3
